US20010012894A1
Synthesis of 3-methoxy-5-phenylpyrazine-2-carboxamide
Under argon, 2 g (20 mmol) of 2-amino-2-cyanoacetamide was initially charged in 15 g of methanol. 0.55 g (3 mmol) of sodium methoxide solution (30%) was added and the mixture was stirred at 20° C. for 2 hours. At 0° C., 3.2 g (21 mmol) of phenylglyoxal was added and the mixture was then stirred at 0° C. for 2 hours and concentrated. The product was purified by column chromatography (eluent ethyl acetate/methanol 4/1). This gave 3 g of 3-methoxy-5-phenylpyrazine-2-carboxamide. The yield was 65 percent. Other data concerning the title product was:

reactant | 2-amino-2-cyanoacetamide | 20 mmol, 2 g | NC(C(=O)N)C#N | C3H5N3O
reactant | sodium methoxide | 3 mmol, 0.55 g | C[O-].[Na+]
reactant | phenylglyoxal | 21 mmol, 3.2 g | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
solvent | methanol | 15 g | CO | CH4O
product | 3-methoxy-5-phenylpyrazine-2-carboxamide | yield was 65 percent | COC=1C(=NC=C(N1)C1=CC=CC=C1)C(=O)N | C12H11N3O2
